US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxyphenyl)urea:
To a solution of 3-amino-1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine (2.14 g, 6.63 mmol) in tetrahydrofuran (20 ml) is added phenyl chlorocarbonate (1.66 ml, 13.2 mmol), and the mixture is stirred at 40-50° C. for 3 hours. After allowed to cool, water is added to the mixture, and the mixture is extracted with ethyl acetate. The extract is washed with a 5% aqueous brine, and dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in dimethylformamide (30 ml), and thereto are added dropwise successively a solution of 2,6-diisopropyl-4-(3-chlorobenzoyloxy)aniline (2.0 g, 6.03 mmol) in dimethylformamide (5 ml), and a solution of 4-dimethylaminopyridine (0.74 g, 12 mmol) in dimethylformamide (5 ml) at room temperature. The mixture is stirred at room temperature for 8 hours, and to the reaction solution is added water. The mixture is extracted with ethyl acetate. The extract is washed successively with an aqueous ammonium chloride solution, an aqueous sodium hydrogen carbonate solution, and a saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (ethyl acetate:hexane=1:5→ethyl acetate:hexane=1:2) to give the title compound (2.1 g, 3.35 mmol) as amorphous.

reactant | 3-amino-1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine | 6.63 mmol, 2.14 g | NC=1C(N(C2=NC=CC=C2C1C1=CC(=CC=C1)OC)CCCC)=O | C19H21N3O2
reactant | phenyl chlorocarbonate | 13.2 mmol, 1.66 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
reactant | 2,6-diisopropyl-4-(3-chlorobenzoyloxy)aniline | 6.03 mmol, 2.0 g | C(C)(C)C1=C(N)C(=CC(=C1)OC(C1=CC(=CC=C1)Cl)=O)C(C)C | C19H22ClNO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 12 mmol, 0.74 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-hydroxyphenyl)urea | 3.35 mmol, 2.1 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)O)C(C)C)=O | C32H38N4O4
